US05843999
1-Chloro-2-(4-methylsulfonylphenyl)-3-phenylazulene (Compound 22)
To a solution of 2-(4-methylsulfonylphenyl)-1-phenylazulene (0.20 g) in CCl4 (10.0 ml) was added N-chlorosuccinimide (0.08 g) and α,α'-azobis(isobuthyronitrile) (0.01 g), and the reaction mixture was heated under reflux for 1 hr. The mixture was filtered, and concentrated. The crude product was purified by SiO2 column chromatography (benzene/EtOAc, 20:1) to give the title compound (0.10 g) as green crystals; mp 140°-142° C.

reactant | 2-(4-methylsulfonylphenyl)-1-phenylazulene | 0.20 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1)C1=CC=CC=C1 | C23H18O2S
reactant | N-chlorosuccinimide | 0.08 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CCl4 | 10.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Chloro-2-(4-methylsulfonylphenyl)-3-phenylazulene | 0.10 g | ClC1=C(C(=C2C=CC=CC=C12)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C23H17ClO2S
